US05175281
17α-Hydroxy-21-[4-(2-pyridinyl)-1-piperazinyl]pregna-4,9(11)-dien-3,20-dione (I)
17α-Hydroxy-21-iodopregna-4,9(11)-diene-3,20-dione (4.53 g) is stirred in acetonitrile (50 ml) with 1-(2-pyridinyl)piperazine (1.63 g) and potassium carbonate (1.34 g) at 60° for 5 hr and at 20°-25° for 17 hr. The reaction is partitioned between ether and aqueous sodium bicarbonate. The organic phase is washed with saline, dried over sodium sulfate and concentrated. The residue is chromatographed on silica gel with methanol/methylene chloride (4/96) to give the title compound.

reactant | 17α-Hydroxy-21-iodopregna-4,9(11)-diene-3,20-dione | 4.53 g | O[C@]1(C(CI)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C21H27IO3
reactant | 1-(2-pyridinyl)piperazine | 1.63 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | potassium carbonate | 1.34 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 17α-Hydroxy-21-[4-(2-pyridinyl)-1-piperazinyl]pregna-4,9(11)-dien-3,20-dione | O[C@]1(C(CN2CCN(CC2)C2=NC=CC=C2)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C30H39N3O3
